US05064946
3'-Azido-5-chloro-2',3'-dideoxyuridine
3'-Azido-2',3'-dideoxyuridine (0.25 g; 1 mMol) was dissolved in 2 mL dry dimethylacetamide (DMAC), cooled to 0° C. and 2 mL of 0.5M HCl in DMAC was added. m-Chloroperbenzoic acid (0.277 g; 1.6 mMol) was added in two portions over ten minutes and the mixture was allowed to come to ambient temperature. After two hours, 4 mL H2O was added and the solution filtered. The aqueous DMAC solution was extracted with Et2O (3×3 mL) and the Et2O was evaporated in vacuo to an oil which was applied to a silica gel column. Elution with CHCl3MeOH (15:1 v/v), combination of the appropriate fractions and evaporation in vacuo yielded an oil which was crystallized from Et2O to give 58.5 mg (0.2 mMol, 20%): mp=169°-170° C.

reactant | 3'-Azido-2',3'-dideoxyuridine | 1 mMol, 0.25 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11N5O4
reactant | HCl | 0.5M, 2 mL | Cl | ClH
reactant | m-Chloroperbenzoic acid | 1.6 mMol, 0.277 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | H2O | 4 mL | O | H2O
solvent | dimethylacetamide | 2 mL | CC(=O)N(C)C | C4H9NO
product | 3'-Azido-5-chloro-2',3'-dideoxyuridine | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(=C1)Cl | C9H10ClN5O4
